US08022062B2
Benzothiazol-6-yl-methanol:
Add slowly a solution of benzothiazole-6-carboxylic acid methyl ester (0.5 g, 2.59 mmol) in anhydrous THF (10 mL) to a suspension of lithium aluminum hydride (0.1 g, 2.85 mmol) in anhydrous THF (20 mL) at −10° C. and stir for 20 min at −10° C. Treat the reaction mixture with 2N aqueous NaOH until a granular precipitate starts to form and filter through a pad of Celite®. Evaporate the solvent and purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1, 4:1, 7:3, 3:2 and 1:1) to obtain the desired intermediate as a yellow oil (0.4 g, 99%). MS (ES+) m/z: 166 (M+H)+.

reactant | benzothiazole-6-carboxylic acid methyl ester | 2.59 mmol, 0.5 g | COC(=O)C1=CC2=C(N=CS2)C=C1 | C9H7NO2S
reactant | lithium aluminum hydride | 2.85 mmol, 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Benzothiazol-6-yl-methanol | 0.4 g, 99% | S1C=NC2=C1C=C(C=C2)CO | C8H7NOS
